US06313344B1
a) 1-[4-(1-{4-Chlorophenyl}ethoxy)-phenyl]propan-1-one
26.5 g of 1-(4-chlorophenyl)-ethanol are added dropwise to 7.9 g of sodium hydride (55% in oil) in 250 ml of dimethylacetamide and the mixture is stirred at room temperature for 30 minutes. 25.7 g of 4-fluoropropiophenone are then added dropwise; the mixture is heated to 100° C. and stirred for 90 minutes. After cooling, the reaction mixture is concentrated in vacua; the residue is taken up in ethyl acetate, washed twice with water and once with saturated sodium chloride solution and dried over sodium sulfate. The solvent is evaporated off in vacuo and the residue is purified by recrystallisation from hexane to yield the title compound having a melting point 70-71° C.

reactant | 1-(4-chlorophenyl)-ethanol | 26.5 g | ClC1=CC=C(C=C1)C(C)O | C8H9ClO
reactant | sodium hydride | 7.9 g | [H-].[Na+]
reactant | 4-fluoropropiophenone | 25.7 g | CCC(=O)C1=CC=C(C=C1)F | C9H9FO
solvent | dimethylacetamide | 250 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(1-{4-Chlorophenyl}ethoxy)-phenyl]propan-1-one | ClC1=CC=C(C=C1)C(C)OC1=CC=C(C=C1)C(CC)=O | C17H17ClO2
